US06417212B1
A. 2-(4-{2-[2-(2′-Fluoro-biphenyl-4-yl)-5-methyloxazol-4-yl]-ethoxy}-phenoxy)-2-methylpropionic acid ethyl ester
A solution of 2-(4-{2-[2-(4-bromophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester (300 mg, 0.614 mmol) (see Ex. 2, part B), 2-fluorophenylboronic acid (0.921 mmol), potassium fluoride (88.6 mg, 1.84 mmol), palladium acetate (1.3 mg, 0.14 μmol), and 2-(dicyclohexylphosphino)biphenyl (4.3 mg, 12.3 μmol) were combined under N2, to which anhydrous THF (1.23 mL) was added. The yellow mixture was heated at reflux for 12 h. After cooling to room temperature, the mixture was partitioned between Et2O (20 mL) and 1M NaOH (10 mL). The layers were separated, and the aqueous phase was back-extracted with Et2O (10 mL). Combined organic phases were dried over Na2SO4, and concentrated. The product was purified by silica gel chromatography (25 g SiO2, 1:4 ethyl acetate:hexanes) to yield the desired product as an oil. Rf=0.48 in 1:4 ethyl acetate:hexanes; 1H NMR (400 MHz, CDCl3) δ8.01 (d, J=8.0 Hz, 2H), 7.60 (d, J=8 Hz, 2H), 7.47-7.42 (m, 1H), 7.34-7.28 (m, 1H), 7.22-7.11 (m, 2H), 6.81-6.73 (m, 4H), 4.20 (q, J=6.8 Hz, 2H), 4.17 (t, J=6.6 Hz, 2H), 2.94 (t, J=6.6 Hz, 2H), 2.35 (s, 3H), 1.50 (s, 6H), 1.24 (t, J=6.8 Hz, 3H); MS (EI) 504.2 (M+H)+.

reactant | 2-(4-{2-[2-(4-bromophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester | 0.614 mmol, 300 mg | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)Br)=O | C24H26BrNO5
reactant | 2-fluorophenylboronic acid | 0.921 mmol | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | potassium fluoride | 1.84 mmol, 88.6 mg | [F-].[K+]
reactant | 2-(dicyclohexylphosphino)biphenyl | 12.3 μmol, 4.3 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
catalyst | palladium acetate | 0.14 μmol, 1.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | THF | 1.23 mL | C1CCOC1 | C4H8O
product | 2-(4-{2-[2-(2′-Fluoro-biphenyl-4-yl)-5-methyloxazol-4-yl]-ethoxy}-phenoxy)-2-methylpropionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=C(C=CC=C1)F)=O | C30H30FNO5
